US07439393B2
ii) [3-(Cyclopentylthio)phenyl]methanol
A solution of tetrabutylammonium fluoride in THF (1M, 6 ml) was added to a solution of tert-butyl{[3-(cyclopentylthio)benzyl]oxy}dimethylsilane (1.09 g) in dry THF (10 ml). The solution was stirred for 18 h under nitrogen and the solvent was evaporated in vacuo. The residue was partitioned between dichloromethane and water. The organic phase was separated and washed with water. The organic phase was separated and the solvent evaporated in vacuo. The residue was purified on a 10 g silica SPE cartridge, eluting with a stepped gradient of 10% to 100% dichloromethane-cyclohexane to give the title compound (0.65 g). LCMS RT=3.3 min

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tert-butyl{[3-(cyclopentylthio)benzyl]oxy}dimethylsilane | 1.09 g | C(C)(C)(C)[Si](C)(C)OCC1=CC(=CC=C1)SC1CCCC1 | C18H30OSSi
solvent | THF | 1M, 6 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [3-(Cyclopentylthio)phenyl]methanol | 0.65 g | C1(CCCC1)SC=1C=C(C=CC1)CO | C12H16OS
